US08835420B2
(S)-2,4-Diamino-6-((1-(1-methyl-6-(thiazol-4-yl)-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)amino)pyrimidine-5-carbonitrile
To a sealed tube were added (S)-4-amino-6-((1-(1-methyl-6-(thiazol-4-yl)-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)amino)-2-(methylsulfonyl)pyrimidine-5-carbonitrile (20 mg, 0.044 mmol) in dioxane (5 mL) along with 0.5M ammonia in dioxane (0.440 mL, 0.220 mmol). The reaction mixture was heated at 60° C. overnight and then concentrated. The crude product was taken up in DMF and purified by preparative HPLC (basic mode) eluting with 30-40% ACN in water. The fractions containing the desired product were combined and concentrated in vacuo to give the title compound as an off-white solid (12 mg, 70%). 1H NMR (500 MHz, CD3OD) δ ppm 1.42 (d, J=6.83 Hz, 3 H), 3.87 (s, 3 H), 5.76 (d, J=6.83 Hz, 1 H), 6.60-6.67 (m, 1 H), 7.56 (s, 1 H), 7.76 (s, 1 H), 7.91 (d, J=0.98 Hz, 1 H), 9.16 (d, J=1.95 Hz, 1 H); ESI-MS m/z [M+H]+ calc'd for C18H17N9S, 392; found 392.

reactant | (S)-4-amino-6-((1-(1-methyl-6-(thiazol-4-yl)-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)amino)-2-(methylsulfonyl)pyrimidine-5-carbonitrile | 0.044 mmol, 20 mg | NC1=NC(=NC(=C1C#N)N[C@@H](C)C1=C(C=C2C(=N1)C=CN2C)C=2N=CSC2)S(=O)(=O)C | C19H18N8O2S2
reactant | ammonia | 0.5M | N | H3N
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 0.220 mmol, 0.440 mL | O1CCOCC1 | C4H8O2
product | (S)-2,4-Diamino-6-((1-(1-methyl-6-(thiazol-4-yl)-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)amino)pyrimidine-5-carbonitrile | 12 mg, 70% | NC1=NC(=C(C(=N1)N)C#N)N[C@@H](C)C1=C(C=C2C(=N1)C=CN2C)C=2N=CSC2 | C18H17N9S
